US06884868B1
To a solution of 4′-propoxybicyclohexyl-4-ol (1 g) and triethylamine (0.81 ml) in dichloromethane (10 ml) was added dropwise methanesulfonyl chloride (0.39 ml) at 0-5° C., and stirred for 3 hours. The reaction mixture was washed with water and brine, and dried, and evaporated under reduced pressure to give 4′-propoxy-4-methylsulfonyloxy-1,1′-bicyclohexane (1.44 g).

reactant | 4′-propoxybicyclohexyl-4-ol | 1 g | C(CC)OC1CCC(CC1)C1CCC(CC1)O | C15H28O2
reactant | triethylamine | 0.81 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.39 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 4′-propoxy-4-methylsulfonyloxy-1,1′-bicyclohexane | 1.44 g | C(CC)OC1CCC(CC1)C1CCC(CC1)OS(=O)(=O)C | C16H30O4S
